US06716851B2
4-(5-Methoxy-2-methylanilino)-2-phenyl-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-phenyl-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 5-methoxy-2-methylaniline (40 mg, 0.290 mmol) similar to Example 77 and isolated as a tan oil (33 mg, 48%). 1H NMR (CDCl3): 8.46-8.42 (m, 2H), 7.50-7.46 (m, 3H), 7.22 (d, J=8.4 Hz, 1H), 7.01 (d, J=2.4 Hz, 1H), 6.92 (s, 1H), 6.80 (dd, J=2.6, 8.6 Hz, 1H), 6.61 (s, 1H), 3.81 (s, 3H), 2.22 (s, 3H).

reactant | 4-chloro-2-phenyl-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=CC=C1 | C11H6ClF3N2
reactant | 5-methoxy-2-methylaniline | 0.290 mmol, 40 mg | COC=1C=CC(=C(N)C1)C | C8H11NO
product | 4-(5-Methoxy-2-methylanilino)-2-phenyl-6-(trifluoromethyl)pyrimidine | COC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=CC=C2)C1)C | C19H16F3N3O
